US07078414B2
d) 3-Ethoxycarbonyl-2-methyl-1-(quinol-2-yl)-1H-pyrrole
2.75 g (17.9 mmol) of 3-ethoxycarbonyl-2-methyl-1H-pyrrole are added at 20° C. under an argon atmosphere to 0.756 g (18.9 mmol) of sodium hydride, at 60% by weight in liquid petroleum jelly, suspended in 12 mL of dimethylformamide. After stirring at 20° C. for 0.2 hour, 0.114 g (1.79 mmol) of copper powder and 2.93 g (17.9 mmol) of. 2-chloroquinoline are added. After stirring at 140° C. for 48 hours, the reaction mixture is filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in 100 mL of water and then extracted with 4 times 50 mL of ethyl acetate. The organic phases are combined, dried over anhydrous magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) to give 6 g of an oil, which oil is purified by flash chromatography [eluent: cyclohexane/ethyl acetate (8/2 by volume)]. After concentrating the fractions under reduced pressure (2.7 kPa), 2.2 g of 3-ethoxycarbonyl-2-methyl-1-(quinol-2-yl)-1H-pyrrole are obtained in the form of a yellow oil. Mass spectrum (EI): m/e 280 (M+.), m/e 251, m/e 206.

reactant | 3-ethoxycarbonyl-2-methyl-1H-pyrrole | 17.9 mmol, 2.75 g | C(C)OC(=O)C1=C(NC=C1)C | C8H11NO2
reactant | sodium hydride | 18.9 mmol, 0.756 g | [H-].[Na+]
reactant | 2-chloroquinoline | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
catalyst | copper | 1.79 mmol, 0.114 g | [Cu] | Cu
product | 3-Ethoxycarbonyl-2-methyl-1-(quinol-2-yl)-1H-pyrrole | 6 g | C(C)OC(=O)C1=C(N(C=C1)C1=NC2=CC=CC=C2C=C1)C | C17H16N2O2
